US07105544B2
N-[4-(1-{3-[(2,2-DIPHENYLACETYL)AMINO]PROPYL}-4-PIPERIDINYL)PHENYL]BUTANAMIDE
Example 149 was prepared from N-(3-bromopropyl)-2,2-diphenylacetamide and N-[4-(4-piperidinyl)phenyl]butanamide according to the procedures described in Scheme 14: ESMS m/e: 498.3 (M+H)+.

reactant | N-(3-bromopropyl)-2,2-diphenylacetamide | BrCCCNC(C(C1=CC=CC=C1)C1=CC=CC=C1)=O | C17H18BrNO
reactant | N-[4-(4-piperidinyl)phenyl]butanamide | N1CCC(CC1)C1=CC=C(C=C1)NC(CCC)=O | C15H22N2O
product | N-[4-(1-{3-[(2,2-DIPHENYLACETYL)AMINO]PROPYL}-4-PIPERIDINYL)PHENYL]BUTANAMIDE | C1(=CC=CC=C1)C(C(=O)NCCCN1CCC(CC1)C1=CC=C(C=C1)NC(CCC)=O)C1=CC=CC=C1 | C32H39N3O2
